US04551460
A solution of 22.3 g of 6-(5-pyrimidinyl)hexyl chloride, 41.6 g of potassium phthalimide, and 1.8 g of potassium iodide in 180 ml of dimethylformamide was heated to a bath temperature of 130° C. for 1 hour. The mixture was diluted with water and was extracted with dichloromethane. The combined organic layers were washed with water and were dried over potassium carbonate. The residue obtained after evaporation was crystallized from ethyl acetate-hexane to give 24.7 g (71%) of 2-[6-(5-pyrimidinyl)hexyl]-1H-isoindole-1,3-(2H)-dione, mp 124°-126.5° C.

reactant | 6-(5-pyrimidinyl)hexyl chloride | 22.3 g | N1=CN=CC(=C1)CCCCCCCl | C10H15ClN2
reactant | potassium phthalimide | 41.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium iodide | 1.8 g | [I-].[K+]
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[6-(5-pyrimidinyl)hexyl]-1H-isoindole-1,3-(2H)-dione | 24.7 g, 71% | N1=CN=CC(=C1)CCCCCCN1C(C2=CC=CC=C2C1=O)=O | C18H19N3O2
